US07816380B2
Benzyl 4,4-difluoro-1-hydroxycyclohexanecarboxylate (2.76 g, 10.21 mmol) was dissolved in 68 mL of EtOAc and a suspension of 10% Palladium on Carbon (1.1 g in 5 mL of EtOAc) was added. The mixture was stirred at room temperature under at atmosphere of hydrogen for 45 minutes (balloon), and the reaction mixture was filtered through a glass micropore filter and concentrated under vacuum to provide 4,4-difluoro-1-hydroxy-cyclohexanecarboxylic acid.

reactant | Benzyl 4,4-difluoro-1-hydroxycyclohexanecarboxylate | 10.21 mmol, 2.76 g | FC1(CCC(CC1)(C(=O)OCC1=CC=CC=C1)O)F | C14H16F2O3
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 68 mL | CCOC(=O)C | C4H8O2
catalyst | Palladium on Carbon | 5 mL, 1.1 g | [Pd] | Pd
product | 4,4-difluoro-1-hydroxy-cyclohexanecarboxylic acid | FC1(CCC(CC1)(C(=O)O)O)F | C7H10F2O3
